US05447957
b) Methyl 2-(2-nitro-4-trifluoromethylphenoxy)-5-(1,1-dimethylpropyl)benzoate
Methyl-2-hydroxy-5-(1,1-dimethylpropyl)benzoate (3.0 g, 0.0135 mol), 4-chloro-3-nitrobenzotrifluoride (1.94 ml, 0.013 mol) and potassium carbonate (1.1 g, 0.008 mol) were mixed in dimethylformamide (50 mL) for 3 h. The solvents were evaporated and the residue was flash chromatographed (silica gel, ethyl acetate/hexane) to yield the title compound. 1H NMR (250 MHz, CDCl3) δ8.24 (d, 1H); 7.99 (d, 1H), 7.54-7.68 (m, 2H), 7.15 (d, 1H), 6.82 (d, 1H), 3.70 (s, 3H), 1.61-1.76 (m, 2H), 1.32 (s, 6H), 0.65-0.76 (t, 3H).

reactant | Methyl-2-hydroxy-5-(1,1-dimethylpropyl)benzoate | 0.0135 mol, 3.0 g | COC(C1=C(C=CC(=C1)C(CC)(C)C)O)=O | C13H18O3
reactant | 4-chloro-3-nitrobenzotrifluoride | 0.013 mol, 1.94 ml | ClC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO2
reactant | potassium carbonate | 0.008 mol, 1.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | Methyl 2-(2-nitro-4-trifluoromethylphenoxy)-5-(1,1-dimethylpropyl)benzoate | [N+](=O)([O-])C1=C(OC2=C(C(=O)OC)C=C(C=C2)C(CC)(C)C)C=CC(=C1)C(F)(F)F | C20H20F3NO5
